US04413013
Following the procedure for Example 2, but substituting N,N'-dithiobis[N-pheylmethanesulfonamide] for N,N'-dithiobis-[N-isopropyl-p-toluenesulfonamide], chlorine for sulfuryl chloride, and N-methyl-N'-2,4-xylylformamidine for N-methyl-N'-(4-chloro-o-tolyl) formamidine, the product is prepared. The product is recrytallized from ethyl acetate to give 2.0 g. (14% yield) of N-[[[N-2,4-xylylformimidoyl]methylamino]thio]-N-phenylmethanesulfonamide as white crystals, mp. 120°-121.5°.

reactant | N,N'-dithiobis-[N-isopropyl-p-toluenesulfonamide] | C(C)(C)N(S(=O)(=O)C1=CC=C(C=C1)C)SSN(S(=O)(=O)C1=CC=C(C=C1)C)C(C)C | C20H28N2O4S4
reactant | chlorine | ClCl | Cl2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-methyl-N'-2,4-xylylformamidine | CNC=NC1=C(C=C(C=C1)C)C | C10H14N2
reactant | N-methyl-N'-(4-chloro-o-tolyl) formamidine | CNC=NC1=C(C=CC(=C1)Cl)C | C9H11ClN2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[[[N-2,4-xylylformimidoyl]methylamino]thio]-N-phenylmethanesulfonamide | 14% yield | C1(=C(C=C(C=C1)C)C)N=CCNSN(S(=O)(=O)C)C1=CC=CC=C1 | C17H21N3O2S2
